US09238640B2
To a mixture of zinc powder (1.05 g, 16.05 mmol) and 1-pyrrolidin-1-ylmethyl-1H-benzoimidazole (2.95 g, 14.59 mmol) in N,N-dimethyl formamide (40 mL) under a nitrogen atmosphere was added 5-bromomethyl-2-nitro-benzoic acid methyl ester (4.0 g, 14.59 mmol). The reaction mixture was stirred at room temperature for 24 hours, then quenched at 0° C. with an ice-cold 25% aqueous solution of ammonium hydroxide (108 mL). The stirring was continued until most of the solid had dissolved. Undissolved solid was filtered off and the filtrate was extracted with diethyl ether. The combined organic layers were washed with 1 N aqueous sodium hydroxide, then water, and were dried over anhydrous sodium sulfate and concentrated under high vacuum to give 2-nitro-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester as an orange oil. Yield: 1.3 g (32%). The crude material was used for the next step without further purification.

reactant | 1-pyrrolidin-1-ylmethyl-1H-benzoimidazole | 14.59 mmol, 2.95 g | N1(CCCC1)CN1C=NC2=C1C=CC=C2 | C12H15N3
reactant | 5-bromomethyl-2-nitro-benzoic acid methyl ester | 14.59 mmol, 4.0 g | COC(C1=C(C=CC(=C1)CBr)[N+](=O)[O-])=O | C9H8BrNO4
solvent | N,N-dimethyl formamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | zinc | 16.05 mmol, 1.05 g | [Zn] | Zn
product | 2-nitro-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)CCN1CCCC1)[N+](=O)[O-])=O | C14H18N2O4
